* C:\Users\Hendrik-Jan\Documents\Kicad project files\Projecten\Diffprobe\Sim\Batteryswitch.asc
M1 N002 N003 N001 N001 BSS84
V1 N001 0 4 Rser=1
V§BAT VBAT 0 3.7 Rser=1
M2 N002 N004 VBAT VBAT BSS84
D1 N004 N003 1N4148
R1 VBAT N004 100K
Q1 N004 N009 0 0 2N3904
R2 N001 N005 100K
R3 N009 N007 20K
D2 N005 N004 1N4148
VUSB N008 0 0
C1 N001 0 10µ
D3 N008 N007 1N4148
D4 N006 N007 1N4148
.model D D
.lib C:\Users\Hendrik-Jan\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Hendrik-Jan\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Hendrik-Jan\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0.001
* The circuit acts as power switch and reduces leakage currents when the load is turned off.
.backanno
.end
